US05767131
5-(4-Azidobutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione was heated with 3-hydroxypropionitrile (5.25 g, 72.0 mmol) at 80° C. until no more CO2 was released. The reaction mixture was diluted with CH2 Cl2 (100 ml), washed with water (100 ml) and brine (100 ml). After drying and evaporation of solvent, the product was purified by chromatography (SiO2, CHCl3 :MeOH=95:5), 4-azidobutanoylacetic acid 2-cyanoethyl ester was obtained as a yellowish oil (2.86 g, 53.2%).

reactant | 5-(4-Azidobutanoyl)-2,2-dimethyl-1,3-dioxane-4,6-dione | N(=[N+]=[N-])CCCC(=O)C1C(OC(OC1=O)(C)C)=O | C10H13N3O5
reactant | 3-hydroxypropionitrile | 72.0 mmol, 5.25 g | OCCC#N | C3H5NO
reactant | CO2 | C(=O)=O | CO2
solvent | Cl2 | 100 ml | ClCl | Cl2
product | 4-azidobutanoylacetic acid 2-cyanoethyl ester | C(#N)CCOC(CC(CCCN=[N+]=[N-])=O)=O | C9H12N4O3
